US04092313
A 100 ml quantity of benzyl alcohol and 7.2 g of sodium hydride are added to 100 ml of absolute toluene, and the mixture is refluxed for 1 hour. Subsequently 14.9 g of 2-chloro-5-fluoropyrimidin-4-one is added to the reaction mixture, and the resulting mixture is heated in a sealed tube at 140° to 150° C for 6 hours for reaction. The reaction mixture is further treated in the same manner as in Example 6 to give 17.2 g of white crystalline 2-benzyloxy-5-fluoropyrimidin-4-one in a yield of 78.2%, m.p. 146°-147° C.

reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 7.2 g | [H-].[Na+]
reactant | 2-chloro-5-fluoropyrimidin-4-one | 14.9 g | ClC1=NC=C(C(N1)=O)F | C4H2ClFN2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzyloxy-5-fluoropyrimidin-4-one | 17.2 g, yield of 78.2% | C(C1=CC=CC=C1)OC1=NC=C(C(N1)=O)F | C11H9FN2O2
